US07176208B2
The quinoxalin-2-one of the present example is prepared with 4,5-Dimethoxy-benzene-1,2-diamine and (thiophen-2-yl) oxo-acetic acid via the method described in Example 12 to afford 6,7-Methoxy-3-thiophen-2-yl-1H-quinoxalin-2-one.

reactant | 4,5-Dimethoxy-benzene-1,2-diamine | COC=1C=C(C(=CC1OC)N)N | C8H12N2O2
reactant | (thiophen-2-yl) oxo-acetic acid | S1C(=CC=C1)C(C(=O)O)=O | C6H4O3S
product | quinoxalin-2-one | N1C(C=NC2=CC=CC=C12)=O | C8H6N2O
